US04477456
The 9-methoxy-3-methyl-1,2,5,6,7,7a-hexahydro-4a,7-ethanobenzofuro[3,2-e]isoquinolin-4(3H)-one (V; R1 =Me, R2 =OMe, R3 =H) so obtained was heated under reflux with 0.7 mL of borane-methyl sulfide in tetrahydrofuran overnight. Conc. hydrochloric acid was added, the tetrahydrofuran was removed, and the residue was heated under reflux with 7 mL of acetic acid and 3 mL of conc. hydrochloric acid for two hours. The solvents were removed, water and toluene were added, and the aqueous layer was made basic and extracted with methylene chloride. Removal of the solvent and short-path distillation of the residue [150° bath, 0.5 μm (0.07 Pa)] gave 0.52 g of 9-methoxy-3-methyl-1,2,3,4,5,6,7,7a-octahydro-4a,7-ethanobenzofuro[3,2-e]isoquinoline as a viscous oil that slowly solidified. NMR spectrum (220 MHz in CDCl3): τ3.1 (d/d, J=6.5/2.5 Hz, 1); 3.5 (m, 2); 5.7 (narrow m, 1); 6.2 (s, 3); 8.0 (s, 3); and 7.5-9.3 (m, 15).

reactant | 9-methoxy-3-methyl-1,2,5,6,7,7a-hexahydro-4a,7-ethanobenzofuro[3,2-e]isoquinolin-4(3H)-one | COC1=CC=CC2=C1OC1C23CCN(C(C32CCC1CC2)=O)C | C19H23NO3
reactant | borane methyl sulfide | 0.7 mL | B.CSC
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 9-methoxy-3-methyl-1,2,3,4,5,6,7,7a-octahydro-4a,7-ethanobenzofuro[3,2-e]isoquinoline | 0.52 g | COC1=CC=CC2=C1OC1C23CCN(CC32CCC1CC2)C | C19H25NO2
